US07750040B2
(1aS,5aR)-1,1,2-Trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-(6-hydroxy-hexyloxy)-2-methoxy-benzylamide is prepared starting from 4-aminomethyl-3-methoxy-phenol, 6-bromohexanol and (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid in analogy to the procedures given in Example 18. LC-MS: tR=1.08 min, [M+1]+=458.25.

reactant | 4-aminomethyl-3-methoxy-phenol | NCC1=C(C=C(C=C1)O)OC | C8H11NO2
reactant | 6-bromohexanol | BrCCCCCCO | C6H13BrO
reactant | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid | CC1([C@@H]2[C@H]1CC1=C(SC(=C21)C)C(=O)O)C | C12H14O2S
product | (1aS,5aR)-1,1,2-Trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-(6-hydroxy-hexyloxy)-2-methoxy-benzylamide | OCCCCCCOC1=CC(=C(CNC(=O)C2=C3C[C@@H]4[C@H](C3=C(S2)C)C4(C)C)C=C1)OC | C26H35NO4S
